US09126969B2
A solution of 1.3 mL of 3-piperidin-1-ylpropan-1-ol in 16 mL of N,N-dimethylformamide (DMF) is cooled to 0° C. with an ice bath. 345 mg of sodium hydride (60% in suspension in oil) are added in small portions. The suspension obtained is added dropwise to a suspension containing 500 mg of 4,5-difluoro-2-nitrophenylamine and 724 mg of sodium bicarbonate in 15 mL of DMF. The reaction medium is stirred for one hour at ambient temperature and then heated for 1 hour at 90° C. The cooled reaction medium is treated with 70 mL of ethyl acetate and 70 mL of distilled water. The aqueous phase is extracted with 70 mL of ethyl acetate. The combined organic phases are washed with 100 mL of distilled water and 100 mL of a saturated aqueous solution of sodium chloride and dried over magnesium sulfate. The solvent is concentrated to dryness in a rotary evaporator and the crude is then purified by chromatography on a 50 g silica cartridge, eluent: 100/0 to 80/20 dichloromethane/methanol. 300 mg of 4-fluoro-2-nitro-5-(3-piperidin-1-ylpropoxy)phenylamine are isolated in the form of a yellow oil which crystallizes. Analytical LC/MS: Tr=2.26 min, [M+H]+=298.04 DAD=87%.

reactant | 3-piperidin-1-ylpropan-1-ol | 1.3 mL | N1(CCCCC1)CCCO | C8H17NO
reactant | sodium hydride | 345 mg | [H-].[Na+]
reactant | 4,5-difluoro-2-nitrophenylamine | 500 mg | FC1=CC(=C(C=C1F)N)[N+](=O)[O-] | C6H4F2N2O2
reactant | sodium bicarbonate | 724 mg | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | 16 mL | CN(C=O)C | C3H7NO
solvent | DMF | 15 mL | CN(C=O)C | C3H7NO
solvent | water | 70 mL | O | H2O
solvent | ethyl acetate | 70 mL | C(C)(=O)OCC | C4H8O2
product | 4-fluoro-2-nitro-5-(3-piperidin-1-ylpropoxy)phenylamine | 300 mg | FC1=CC(=C(C=C1OCCCN1CCCCC1)N)[N+](=O)[O-] | C14H20FN3O3
